US06248900B1
Preparation of 4-benzyl-5-propoxy-2,4-dihydro-1,2,4-triazol-3-one
In an autoclave, 2.04 g of methyl N′-dipropoxymethylenehydrazinecarboxylate (8.9 mmol) and 3.46 g of benzylamine (31.6 mmol) were initially charged in 25.8 g of methanol. After 5 hours at 110° C., the solvent was distilled off and the 4-methyl-5-propoxy-2,4-dihydro-1,2,4-triazol-3-one was recrystallized from ethyl acetate. This gave 0.57 g (27%) of pure 4-benzyl-5-propoxy-2,4-dihydro-1,2,4-triazol-3-one.

reactant | methyl N′-dipropoxymethylenehydrazinecarboxylate | 8.9 mmol, 2.04 g | C(CC)OC(=NNC(=O)OC)OCCC | C9H18N2O4
reactant | benzylamine | 31.6 mmol, 3.46 g | C(C1=CC=CC=C1)N | C7H9N
solvent | methanol | 25.8 g | CO | CH4O
product | 4-benzyl-5-propoxy-2,4-dihydro-1,2,4-triazol-3-one | C(C1=CC=CC=C1)N1C(NN=C1OCCC)=O | C12H15N3O2
